US04463173
A solution of 4-formyl-2-fluoro-1-triphenylmethylimidazole (356 mg.) in ethanol (5 ml.) and CH2Cl2 (3 ml.) was treated with silver nitrate (0.37 g.) in water (0.5 ml.) followed by the dropwise addition of 5 ml. of potassium hydroxide solution (5 ml. of a solution of 2.1 g. KOH in 35 ml. water). The mixture was stirred at room temperature for two hours, filtered and the filtrate extracted with ether. The aqueous layer was acidified with concentrated HCl and extracted with CHCl3. The organic layer was dried over MgSO4, filtered and the solvent evaporated to give 4-carboxy-2-fluoro-1-triphenylmethylimidazole (261 mg.) as a white solid having the following n.m.r. in d6DMSO: 7.0-7.68 (m, 16H); 11.5-12.5 (br, 1H).

reactant | 4-formyl-2-fluoro-1-triphenylmethylimidazole | 356 mg | C(=O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H17FN2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 0.5 ml | O | H2O
catalyst | silver nitrate | 0.37 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-carboxy-2-fluoro-1-triphenylmethylimidazole | 261 mg | C(=O)(O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H17FN2O2
